US05210092
To a solution of 1-(4-ethoxycarbonylphenyl)-4-hydroxymethylpyrrole-2-carbonitrile (500 mg) in dichloromethane (5.5 ml) was added trifluoroacetic acid (2.8 ml) and triethylsilane (652 μl) in that order at 5° C. under nitrogen. The mixture was stirred at 5° C. for one and half hours and at ambient temperature for one hour and then poured into a mixture of diethyl ether and n-hexane (1:1). The mixture was washed with saturated sodium bicarbonate solution and brine, dried, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (elution by ethyl acetate/n-hexane=1/10) to yield 1-(4-ethoxycarbonylphenyl)-4-methylpyrrole-2-carbonitrile (163 mg) as a white solid.

reactant | 1-(4-ethoxycarbonylphenyl)-4-hydroxymethylpyrrole-2-carbonitrile | 500 mg | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC(=C1)CO)C#N | C15H14N2O3
reactant | trifluoroacetic acid | 2.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 652 μl | C(C)[SiH](CC)CC | C6H16Si
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 5.5 ml | ClCCl | CH2Cl2
solvent | n-hexane | CCCCCC | C6H14
product | 1-(4-ethoxycarbonylphenyl)-4-methylpyrrole-2-carbonitrile | 163 mg | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC(=C1)C)C#N | C15H14N2O2
